US09315491B2
4-(2-Chloro-5-ethoxy-pyrimidin-4-yl)-morpholine
2,4-dichloro-5-ethoxy-pyrimidin (2.83 g, 1.0 eq) was stirred in toluene (20 ml) and a solution of morpholine (1.93 ml, 1.5 eq) in toluene (20 ml) was added dropwise at −10˜0° C. After stirring the resulting solution overnight at r.t., NH4Cl(aq) was added to the solution and the solution was extracted with EA. The combined organic layers were washed with brine, dried and evaporated in vacuo. A product was obtained as a white solid (2.7 g, 73.5%).

reactant | 2,4-dichloro-5-ethoxy-pyrimidin | 2.83 g, 1.0 eq | ClC1=NC=C(C(=N1)Cl)OCC | C6H6Cl2N2O
reactant | morpholine | 1.93 ml, 1.5 eq | N1CCOCC1 | C4H9NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-Chloro-5-ethoxy-pyrimidin-4-yl)-morpholine | 2.7 g, 73.5% | ClC1=NC=C(C(=N1)N1CCOCC1)OCC | C10H14ClN3O2
